US05418224
A) Preparation of N-demethylerythromycin A
20 g of erythromycin A (=27.2 mmole) and 11.2 g (=136.2 mmole) of sodium acetate were dissolved in 200 ml of an 8:2 methanol/water mixture. The solution was heated to 47° C. Then 6.9 g (=136.2 mmole) of iodine were added. The pH was kept at 8 to 9 by adding dilute aqueous sodium hydroxide solution. After 3 hours, the reaction mixture was worked up by pouring it into a mixture of 1 liter of water and 20 ml of ammonium hydroxide solution. The reaction mixture was extracted with ethyl acetate, and the organic extract was washed with ammonium hydroxide-containing water and concentrated. The crude product remaining after removal of the solvent was recrystallized from acetone/ammonium hydroxide solution 50:3. Melting point 143°-148° C.

reactant | erythromycin A | 27.2 mmole, 20 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | sodium acetate | 136.2 mmole, 11.2 g | C(C)(=O)[O-].[Na+]
reactant | iodine | 136.2 mmole, 6.9 g | II | I2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | methanol water | 200 ml | CO.O
solvent | water | 1 liter | O | H2O
product | N-demethylerythromycin A | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)NC)O)(C)O)C)C)O)(C)O | C36H65NO13
